data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_688692_2,[C:1](/[N:2]=[C:3](/[C:5]([C:4](=[O:7])[H:9])([H:13])[H:14])[O:6][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[C:5]([H:13])[H:14])[O:6][H:8])[C:4](=[O:7])[H:9])([H:10])([H:11])[H:12],41.17592249998097
MR_260827_1,[C:1]1([O:8][H:10])([H:11])[C:3]([H:13])([H:14])[O:7][C:5](=[O:9])[C:2]([C:4]([H:15])([H:16])[H:17])([H:12])[O:6]1>>[C:1]([O:6][C:2]([C:4]([H:15])([H:16])[H:17])([C:5]1([O:9][H:10])[C:3]([H:13])([H:14])[O:7]1)[H:12])(=[O:8])[H:11],67.94444500002584
MR_620312_1,[C:1]1([C:4]([C:2]2([H:11])[N:5]([H:9])[C:6]2=[O:8])([H:14])[H:15])([H:10])[C:3]([H:12])([H:13])[O:7]1>>[C:1]1([C:4]([C@@:2]2([H:11])[N:5]([H:9])[C:6]2=[O:8])([H:14])[H:15])([H:10])[C:3]([H:12])([H:13])[O:7]1,67.79196250005413
MR_114866_1,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[H:8])=[N:6]\[O:5][H:7])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]\[N:4]([H:9])[H:10])[N:6]([O:5][H:7])[H:8])([H:11])([H:12])[H:13],47.37562249998703
MR_318446_2,[C:1]1([O:7][C:2]2([H:11])[C:4]([C:6]([H:17])([H:18])[H:19])([H:13])[O:9]2)([H:10])[C:3]([C:5]([H:14])([H:15])[H:16])([H:12])[O:8]1>>[C@@:1]1([O:7][C@@:2]2([H:11])[C@@:4]([C:6]([H:17])([H:18])[H:19])([H:13])[O:9]2)([H:10])[C@:3]([C:5]([H:14])([H:15])[H:16])([H:12])[O:8]1,68.00343000001959
MR_651216_1,[C:1]1([O:6][H:8])([O:7][H:9])[C:2]([H:11])([H:12])[C:5]([H:14])=[C:4]([H:13])[N:3]1[H:10]>>[C:1]1([O:6][H:8])([O:7][H:9])[C:2]([H:11])([H:12])[C@:5]1(/[C:4](=[N:3]\[H:10])[H:13])[H:14],55.00790500001443
MR_56356_0,[C:1]([N:3]([C:4](=[C:5]([H:15])[H:16])[H:8])/[N:6]=[N:7]/[C:2]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[N:6]/[N:7]([C:2]([H:12])([H:13])[H:14])[C:4](=[C:5]([H:15])[H:16])[H:8])([H:9])([H:10])[H:11],57.6032449999893
MR_63027_1,[N:1](=[N:6]/[C:2]([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[O:5][H:8])\[H:9]>>[N:1]([C:4](=[O:7])[H:12])(/[N:6]=[C:2](/[N:3]([H:10])[H:11])[O:5][H:8])[H:9],37.41468749998916
MR_538606_1,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])[O:8][H:9])(=[O:7])[H:10]>>[C:1]([C:3]([N:5]([H:11])[H:12])=[O:8])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([O:7][H:9])[H:10],31.25891250001488
MR_343411_1,[C:1]1([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:2]([C:6](=[O:7])[H:14])([H:9])[N:3]1[H:8]>>[C:1]([C:2]1([H:9])[N:3]([H:8])[C:6]1=[O:7])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:14],57.29702500001338
MR_77167_0,[C:1]1([O:5][H:6])([H:8])[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[N:4]1[H:7]>>[C:1](\[C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])(=[N:4]\[H:7])[O:5][H:6],64.65634499999872
MR_138899_0,[C:1]([C:4](=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])/[N:8]=[C:7](\[N:6]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[N:8][C:7]([N:6]([H:9])[H:10])([H:11])[C:5]1([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],55.23694250000688
MR_227338_2,[C:1]([N:3]([H:8])[H:9])([O:4][C:2]([O:5][H:7])=[O:6])([H:10])[H:11]>>[C:1]([C:2]([O:5][H:7])=[O:6])([O:4][N:3]([H:8])[H:9])([H:10])[H:11],52.02414249998583
MR_329645_1,[C:1]1([C:7]([C:6]([H:19])([H:20])[H:21])=[O:9])([O:8][H:10])[C:2]([C:4]([H:13])([H:15])[H:16])([C:5]([H:14])([H:17])[H:18])[C:3]1([H:11])[H:12]>>[C:1]([C:2]([C:4]([H:13])([H:15])[H:16])([C:5]([H:14])([H:17])[H:18])[C:7]([C:6]([H:19])([H:20])[H:21])=[O:9])(=[C:3]([H:11])[H:12])[O:8][H:10],71.73768250004386
MR_461648_0,[C@:1]([C:3]([H:14])([H:15])[H:16])([O:5][C:2]([H:11])([H:12])[H:13])([N:7][C:4]([O:6][H:8])[H:10])[H:9]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[N:7]/[C@:4]([O:5][C:2]([H:11])([H:12])[H:13])([O:6][H:8])[H:10])[H:9],46.70608000000101
MR_27309_1,[C@@:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:6]\[H:9])([C:5](=[O:7])[H:10])[H:8]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:5](\[O:7]/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:6]\[H:9])[H:10])[H:8],69.18814999998901
MR_279642_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:16])/[C:6]([O:8][H:10])=[N:9]/[N:7]([H:12])[H:13])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([N:9](/[C:6](=[N:5]\[C:2]([H:14])([H:15])[H:16])[O:8][H:10])[N:7]([H:12])[H:13])[H:11],66.30855249998277
MR_614432_0,[C:1]([C:3](=[C:4]([H:13])[H:14])[O:5]/[C:2]([O:6][H:8])=[N:7]/[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3](=[C:4]([H:13])[H:14])[N:7]([C:2](=[O:5])[O:6][H:8])[H:9])([H:10])([H:11])[H:12],48.93433250001095
MR_310427_0,[C:1]([O:3]/[C:2](=[N:4]\[H:6])[H:8])(=[O:5])[H:7]>>[C:1](=[O:3])([O:5]/[C:2](=[N:4]\[H:6])[H:8])[H:7],31.599017499976583
MR_40516_0,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C:4]([C:3]([H:15])([H:16])[H:17])([O:6][H:8])[O:7][H:9])[H:11])[H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:5](=[C:4](\[C:3]([H:15])([H:16])[H:17])[O:7][H:9])[H:11])([O:6][H:8])[H:10],57.82475250000076
MR_394422_1,[C:1]1([H:13])([H:14])[N:2]([H:8])[O:7][C:3]([N:5]([H:9])[H:10])=[C:4]1[N:6]([H:11])[H:12]>>[C:1](=[C:4]([C@:3]1([N:5]([H:9])[H:10])[N:2]([H:8])[O:7]1)[N:6]([H:11])[H:12])([H:13])[H:14],42.986887500010056
